US04990508
In 5 ml of N,N-dimethylformamide was dissolved 240 mg of ethyl (S)-7-(1-benzyloxycarbonylaminocyclopropyl)-6,8-difluoro-1-[2-(N-methylamino)-1-methylethyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylate. To the resulting solution was added 80 mg of potassium carbonate. The resulting mixture was stirred at room temperature for 6 hours. The reaction mixture was added to a mixture of 20 ml of ethyl acetate and 20 ml of water. The resulting mixture was adjusted to pH 3 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. Diethyl ether was added to the residue obtained. The resulting crystals were collected by filtration to obtain 120 mg (yield: 52.2%) of ethyl (S)-10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-1,3-dimethyl-7-oxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]-quinoxaline-6-carboxylate.

reactant | ethyl (S)-7-(1-benzyloxycarbonylaminocyclopropyl)-6,8-difluoro-1-[2-(N-methylamino)-1-methylethyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 240 mg | C(C1=CC=CC=C1)OC(=O)NC1(CC1)C1=C(C=C2C(C(=CN(C2=C1F)[C@H](CNC)C)C(=O)OCC)=O)F | C27H29F2N3O5
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | ethyl (S)-10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-1,3-dimethyl-7-oxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]-quinoxaline-6-carboxylate | 120 mg, yield: 52.2% | C(C1=CC=CC=C1)OC(=O)NC1(CC1)C1=C(C=C2C=3N([C@H](CN(C13)C)C)C=C(C2=O)C(=O)OCC)F | C27H28FN3O5
